US05639778
1-(7-Dipropylamino-6,7,8,9-tetrahydro-3H-benzo[e]indol-1-yl)-2,2,2-trifluoro-ethanone (10i, Chart 2).
To an ice-cooled solution of dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine (150 mg, 0.56 mmol) in dimethyl formamide (5 mL) in an inert atmosphere was added trifluoroacetic anhydride (300 μL, 447 mg mg, 2.12 mmol) and the following mixture was stirred over night at room temperature. Water was added and the aqueous solution was washed with diethyl ether. After basification (5% sodium hydroxide), the aqueous solution was extracted two times with diethyl ether and one time with ethyl acetate. The combined organic extract was dried (magnesium sulfate), filtered and evaporated to yield a residue which was purified in silica using methanol as eluant. The pure fractions were collected and evaporated to yield 130 mg (63%) of the pure material.:

reactant | dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine | 0.56 mmol, 150 mg | C(CC)N(C1CC2=C(C=3C=CNC3C=C2)CC1)CCC | C18H26N2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(7-Dipropylamino-6,7,8,9-tetrahydro-3H-benzo[e]indol-1-yl)-2,2,2-trifluoro-ethanone | 130 mg, 63% | C(CC)N(C1CC2=C(C=3C(=CNC3C=C2)C(C(F)(F)F)=O)CC1)CCC | C20H25F3N2O
